* Created by KLayout
*** My special header ***

* cell TOP_pin_2
* pin P1
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
* pin VSS
.SUBCKT TOP_pin_2 P1 P10 P11 P12 P13 P14 P15 P2 P3 P4 P5 P6 P7 P9 VDD VSS
* cell instance $1 r0 *1 0,0
X$1 P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS OSS_FRAME
* cell instance $21 r0 *1 -479.2,600.2
X$21 \$20 \$24 VDD VSS DRVBUF
* cell instance $25 r0 *1 710.7,133
X$25 VDD \$45 \$46 \$35 \$25 VSS COMP_aki
* cell instance $27 m0 *1 488.6,644.4
X$27 VDD \$32 \$I93 VSS INV_X1
* cell instance $28 r0 *1 532.8,682.5
X$28 \$10.Schmitt_out \$I98 \$54 \$I98 \$I102 VDD VSS DFFR
* cell instance $29 r180 *1 585.8,672.7
X$29 VDD \$54 \$I95 VSS INV_X1
* cell instance $30 r0 *1 464.2,682.5
X$30 \$I101 \$10.Schmitt_out VDD VSS INV_X8
* cell instance $31 r0 *1 365.5,682.5
X$31 VDD \$I96 \$I95 \$I100 VSS AND2_X1
* cell instance $32 r0 *1 645.4,682.5
X$32 VDD \$I102 \$24 VSS BUF_X1
* cell instance $33 r0 *1 412.1,682.5
X$33 \$I100 \$I101 VDD VSS INV_X4
* device instance $1 r0 *1 -846,-529.8 F_RS
XR$1 P6 \$7 F_RS R=1.36 L=54.4u W=20u A=544p P=94.4u m=1
* device instance $3 r0 *1 -829.9,-129.9 F_RS
XR$3 P5 \$20 F_RS R=1.36 L=54.4u W=20u A=544p P=94.4u m=1
* device instance $5 r0 *1 -676.1,846.9 F_RS
XR$5 P2 \$60 F_RS R=1.36 L=54.4u W=20u A=544p P=94.4u m=1
* device instance $7 r0 *1 876.1,249.2 F_RS
XR$7 P13 \$25 F_RS R=9.275 L=74.2u W=4u A=148.4p P=82.2u m=1
* device instance $8 r0 *1 -869.8,256.3 F_RS
XR$8 \$32 P4 F_RS R=9.275 L=74.2u W=4u A=148.4p P=82.2u m=1
* device instance $10 r0 *1 878.1,649.1 F_RS
XR$10 P14 \$35 F_RS R=9.275 L=74.2u W=4u A=148.4p P=82.2u m=1
* device instance $12 r0 *1 -146.5,891.4 F_RS
XR$12 P1 \$45 F_RS R=9.275 L=74.2u W=4u A=148.4p P=82.2u m=1
* device instance $13 r0 *1 -874,647.1 F_RS
XR$13 VSS P3 F_RS R=9.275 L=111.3u W=4u A=148.4p P=82.2u m=1
* device instance $17 m90 *1 678.8,-270.3 F_RR
XR$17 P12 P10 VDD F_RR R=6.35714285714 L=17.8u W=2.8u A=49.84p P=41.2u m=1
* device instance $18 r0 *1 270.2,-669.3 F_CSIO
XC$18 P9 P11 VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u X=80.5999990463
+ Y=80.6000009537 m=1
* device instance $19 r0 *1 336.6,717.8 PMOS
XM$19 \$I99 \$I96 VSS VDD PMOS L=1u W=10.2u AS=28.56p AD=28.56p PS=26u PD=26u
* device instance $20 r0 *1 323.2,717.8 PMOS
XM$20 VDD \$10.OSC_IN \$I99 VDD PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u
+ PD=13.2u
* device instance $21 r0 *1 327.2,717.8 PMOS
XM$21 \$I99 \$10.OSC_IN \$I96 VDD PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u
+ PD=26u
* device instance $22 r0 *1 336.6,691.6 NMOS
XM$22 \$I97 \$I96 VDD VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $23 r0 *1 323.2,691.6 NMOS
XM$23 VSS \$10.OSC_IN \$I97 VSS NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u
+ PD=6.4u
* device instance $24 r0 *1 327.2,691.6 NMOS
XM$24 \$I97 \$10.OSC_IN \$I96 VSS NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u
+ PD=12.4u
* device instance $25 r0 *1 537.7,621.5 NMOS
XM$25 \$10.OSC_IN \$I93 \$7 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u
+ PD=12.4u
* device instance $26 r180 *1 537.7,595.5 PMOS
XM$26 \$7 \$32 \$10.OSC_IN VDD PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u
+ PD=12.4u
* device instance $27 r180 *1 450.8,589.4 F_RS
XR$27 VDD \$32 F_RS R=9.275 L=37.1u W=4u A=148.4p P=82.2u m=1
* device instance $29 m90 *1 447.6,659.8 F_RR
XR$29 \$10.Schmitt_out \$10.OSC_IN VDD F_RR R=6.35714285714 L=17.8u W=2.8u
+ A=49.84p P=41.2u m=1
* device instance $30 r0 *1 362.5,626.1 F_CSIO
XC$30 \$10.OSC_IN VSS VSS F_CSIO C=3.897816e-12 A=6496.36p P=322.4u
+ X=80.5999990463 Y=80.6000009537 m=1
* device instance $31 r0 *1 -574.9,864.9 PMOS
XM$31 \$60 \$I103 VDD VDD PMOS L=1u W=180u AS=309p AD=309p PS=230.6u PD=230.6u
* device instance $37 r0 *1 -602.9,854.9 PMOS
XM$37 \$I105 \$I104 VDD VDD PMOS L=1u W=20u AS=43p AD=43p PS=38.6u PD=38.6u
* device instance $39 r0 *1 -590.9,859.9 PMOS
XM$39 VDD \$I105 \$I103 VDD PMOS L=1u W=60u AS=116p AD=116p PS=91.6u PD=91.6u
* device instance $42 r0 *1 -574.9,822.8 NMOS
XM$42 \$60 \$I103 VSS VSS NMOS L=1u W=120u AS=206p AD=206p PS=160.6u PD=160.6u
* device instance $48 r0 *1 -588.9,825.3 NMOS
XM$48 \$I103 \$I105 VSS VSS NMOS L=1u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
* device instance $50 r0 *1 -612.9,852.9 PMOS
XM$50 VDD \$46 \$I104 VDD PMOS L=1u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $51 r0 *1 -612.9,831.1 NMOS
XM$51 VSS \$46 \$I104 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $52 r0 *1 -600.9,827.8 NMOS
XM$52 VSS \$I104 \$I105 VSS NMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
.ENDS TOP_pin_2

* cell INV_X8
* pin A
* pin Y
* pin vdd
* pin gnd
.SUBCKT INV_X8 A Y vdd gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A Y vdd PMOS L=1u W=81.6u AS=135.66p AD=135.66p PS=118.4u PD=118.4u
* device instance $9 r0 *1 6.1,6.8 NMOS
XM$9 gnd A Y gnd NMOS L=1u W=27.2u AS=45.22p AD=45.22p PS=57.2u PD=57.2u
.ENDS INV_X8

* cell DFFR
* pin CK
* pin D
* pin RST
* pin QB
* pin Q
* pin vdd
* pin gnd
.SUBCKT DFFR CK D RST QB Q vdd gnd
* device instance $1 r0 *1 75.7,44.8 PMOS
XM$1 QB \$11 vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 79.7,44.8 PMOS
XM$2 vdd QB Q vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $3 r0 *1 50.9,44.8 PMOS
XM$3 vdd \$8 \$22 vdd PMOS L=1u W=10.2u AS=28.56p AD=7.14p PS=26u PD=11.6u
* device instance $4 r0 *1 53.3,44.8 PMOS
XM$4 \$22 \$5 \$10 vdd PMOS L=1u W=10.2u AS=7.14p AD=15.3p PS=11.6u PD=13.2u
* device instance $5 r0 *1 57.3,44.8 PMOS
XM$5 \$10 \$4 \$23 vdd PMOS L=1u W=10.2u AS=15.3p AD=7.14p PS=13.2u PD=11.6u
* device instance $6 r0 *1 59.7,44.8 PMOS
XM$6 \$23 \$11 vdd vdd PMOS L=1u W=10.2u AS=7.14p AD=15.3p PS=11.6u PD=13.2u
* device instance $7 r0 *1 63.7,44.8 PMOS
XM$7 vdd \$10 \$24 vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $8 r0 *1 67.7,44.8 PMOS
XM$8 \$24 RST \$11 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $9 r0 *1 6.1,44.8 PMOS
XM$9 \$2 CK vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $10 r0 *1 10.1,44.8 PMOS
XM$10 vdd \$2 \$4 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $11 r0 *1 18.1,44.8 PMOS
XM$11 \$5 \$4 vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $12 r0 *1 22.1,44.8 PMOS
XM$12 vdd D \$19 vdd PMOS L=1u W=10.2u AS=15.3p AD=7.14p PS=13.2u PD=11.6u
* device instance $13 r0 *1 24.5,44.8 PMOS
XM$13 \$19 \$4 \$7 vdd PMOS L=1u W=10.2u AS=7.14p AD=28.56p PS=11.6u PD=26u
* device instance $14 r0 *1 32.5,44.8 PMOS
XM$14 \$7 \$5 \$20 vdd PMOS L=1u W=10.2u AS=28.56p AD=7.14p PS=26u PD=11.6u
* device instance $15 r0 *1 34.9,44.8 PMOS
XM$15 \$20 \$8 vdd vdd PMOS L=1u W=10.2u AS=7.14p AD=15.3p PS=11.6u PD=13.2u
* device instance $16 r0 *1 38.9,44.8 PMOS
XM$16 vdd \$7 \$21 vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $17 r0 *1 42.9,44.8 PMOS
XM$17 \$21 RST \$8 vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $18 r0 *1 75.7,6.8 NMOS
XM$18 QB \$11 gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $19 r0 *1 79.7,6.8 NMOS
XM$19 gnd QB Q gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $20 r0 *1 50.9,6.8 NMOS
XM$20 gnd \$8 \$16 gnd NMOS L=1u W=3.4u AS=9.52p AD=2.38p PS=12.4u PD=4.8u
* device instance $21 r0 *1 53.3,6.8 NMOS
XM$21 \$16 \$4 \$10 gnd NMOS L=1u W=3.4u AS=2.38p AD=5.1p PS=4.8u PD=6.4u
* device instance $22 r0 *1 57.3,6.8 NMOS
XM$22 \$10 \$5 \$17 gnd NMOS L=1u W=3.4u AS=5.1p AD=2.38p PS=6.4u PD=4.8u
* device instance $23 r0 *1 59.7,6.8 NMOS
XM$23 \$17 \$11 gnd gnd NMOS L=1u W=3.4u AS=2.38p AD=5.1p PS=4.8u PD=6.4u
* device instance $24 r0 *1 63.7,6.8 NMOS
XM$24 gnd \$10 \$11 gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $25 r0 *1 67.7,6.8 NMOS
XM$25 \$11 RST gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $26 r0 *1 6.1,6.8 NMOS
XM$26 \$2 CK gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $27 r0 *1 10.1,6.8 NMOS
XM$27 gnd \$2 \$4 gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
* device instance $28 r0 *1 18.1,6.8 NMOS
XM$28 \$5 \$4 gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $29 r0 *1 22.1,6.8 NMOS
XM$29 gnd D \$14 gnd NMOS L=1u W=3.4u AS=5.1p AD=2.38p PS=6.4u PD=4.8u
* device instance $30 r0 *1 24.5,6.8 NMOS
XM$30 \$14 \$5 \$7 gnd NMOS L=1u W=3.4u AS=2.38p AD=9.52p PS=4.8u PD=12.4u
* device instance $31 r0 *1 32.5,6.8 NMOS
XM$31 \$7 \$4 \$15 gnd NMOS L=1u W=3.4u AS=9.52p AD=2.38p PS=12.4u PD=4.8u
* device instance $32 r0 *1 34.9,6.8 NMOS
XM$32 \$15 \$8 gnd gnd NMOS L=1u W=3.4u AS=2.38p AD=5.1p PS=4.8u PD=6.4u
* device instance $33 r0 *1 38.9,6.8 NMOS
XM$33 gnd \$7 \$8 gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $34 r0 *1 42.9,6.8 NMOS
XM$34 \$8 RST gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS DFFR

* cell INV_X4
* pin A
* pin Y
* pin vdd
* pin gnd
.SUBCKT INV_X4 A Y vdd gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A Y vdd PMOS L=1u W=40.8u AS=74.46p AD=74.46p PS=65.6u PD=65.6u
* device instance $5 r0 *1 6.1,6.8 NMOS
XM$5 gnd A Y gnd NMOS L=1u W=13.6u AS=24.82p AD=24.82p PS=31.6u PD=31.6u
.ENDS INV_X4

* cell BUF_X1
* pin vdd
* pin A
* pin Y
* pin gnd
.SUBCKT BUF_X1 vdd A Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 \$2 A vdd vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 10.1,44.8 PMOS
XM$2 vdd \$2 Y vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $3 r0 *1 6.1,6.8 NMOS
XM$3 \$2 A gnd gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $4 r0 *1 10.1,6.8 NMOS
XM$4 gnd \$2 Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS BUF_X1

* cell INV_X1
* pin vdd
* pin A
* pin Y
* pin gnd
.SUBCKT INV_X1 vdd A Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A Y vdd PMOS L=1u W=10.2u AS=28.56p AD=28.56p PS=26u PD=26u
* device instance $2 r0 *1 6.1,6.8 NMOS
XM$2 gnd A Y gnd NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
.ENDS INV_X1

* cell AND2_X1
* pin vdd
* pin A
* pin B
* pin Y
* pin gnd
.SUBCKT AND2_X1 vdd A B Y gnd
* device instance $1 r0 *1 6.1,44.8 PMOS
XM$1 vdd A \$4 vdd PMOS L=1u W=10.2u AS=28.56p AD=15.3p PS=26u PD=13.2u
* device instance $2 r0 *1 10.1,44.8 PMOS
XM$2 \$4 B vdd vdd PMOS L=1u W=10.2u AS=15.3p AD=15.3p PS=13.2u PD=13.2u
* device instance $3 r0 *1 14.1,44.8 PMOS
XM$3 vdd \$4 Y vdd PMOS L=1u W=10.2u AS=15.3p AD=28.56p PS=13.2u PD=26u
* device instance $4 r0 *1 6.1,6.8 NMOS
XM$4 \$4 A \$7 gnd NMOS L=1u W=3.4u AS=9.52p AD=5.1p PS=12.4u PD=6.4u
* device instance $5 r0 *1 10.1,6.8 NMOS
XM$5 \$7 B gnd gnd NMOS L=1u W=3.4u AS=5.1p AD=5.1p PS=6.4u PD=6.4u
* device instance $6 r0 *1 14.1,6.8 NMOS
XM$6 gnd \$4 Y gnd NMOS L=1u W=3.4u AS=5.1p AD=9.52p PS=6.4u PD=12.4u
.ENDS AND2_X1

* cell OSS_FRAME
* pin P13
* pin P11
* pin P4
* pin P15
* pin P14
* pin P5
* pin VDD
* pin P2
* pin P3
* pin P7
* pin P1
* pin P6
* pin P9
* pin P12
* pin P10
* pin VSS
.SUBCKT OSS_FRAME P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS
* cell instance $1 r90 *1 1040,200
X$1 P13 VDD VSS OSS_ESD_5V_ANA
* cell instance $2 r90 *1 1040,-600
X$2 P11 VDD VSS OSS_ESD_5V_ANA
* cell instance $3 m45 *1 -1040,200
X$3 P4 VDD VSS OSS_ESD_5V_ANA
* cell instance $4 r180 *1 600,1040
X$4 P15 VDD VSS OSS_ESD_5V_ANA
* cell instance $5 m135 *1 1040,600
X$5 P14 VDD VSS OSS_ESD_5V_ANA
* cell instance $6 r270 *1 -1040,-200
X$6 P5 VDD VSS OSS_ESD_5V_ANA
* cell instance $10 m45 *1 -1040,-600
X$10 P6 VDD VSS OSS_ESD_5V_ANA
* cell instance $11 m135 *1 1040,-200
X$11 P12 VDD VSS OSS_ESD_5V_ANA
* cell instance $12 m90 *1 600,-1040
X$12 P10 VDD VSS OSS_ESD_5V_ANA
* cell instance $14 m0 *1 -600,1040
X$14 P2 VDD VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 P3 VDD VSS OSS_ESD_5V_ANA
* cell instance $16 r180 *1 -200,1040
X$16 P1 VDD VSS OSS_ESD_5V_ANA
* cell instance $17 m0 *1 200,1040
X$17 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r0 *1 -600,-1040
X$18 P7 VDD VSS OSS_ESD_5V_ANA
* cell instance $19 r0 *1 200,-1040
X$19 P9 VDD VSS OSS_ESD_5V_ANA
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME

* cell DRVBUF
* pin Y
* pin A
* pin VDD
* pin VSS
.SUBCKT DRVBUF Y A VDD VSS
* device instance $1 r0 *1 -263.8,-723.5 PMOS
XM$1 Y \$2 VDD VDD PMOS L=1u W=180u AS=309p AD=309p PS=230.6u PD=230.6u
* device instance $7 r0 *1 -291.8,-733.5 PMOS
XM$7 \$16 \$15 VDD VDD PMOS L=1u W=20u AS=43p AD=43p PS=38.6u PD=38.6u
* device instance $9 r0 *1 -279.8,-728.5 PMOS
XM$9 VDD \$16 \$2 VDD PMOS L=1u W=60u AS=116p AD=116p PS=91.6u PD=91.6u
* device instance $12 r0 *1 -263.8,-765.6 NMOS
XM$12 Y \$2 VSS VSS NMOS L=1u W=120u AS=206p AD=206p PS=160.6u PD=160.6u
* device instance $18 r0 *1 -277.8,-763.1 NMOS
XM$18 \$2 \$16 VSS VSS NMOS L=1u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
* device instance $20 r0 *1 -301.8,-735.5 PMOS
XM$20 VDD A \$15 VDD PMOS L=1u W=6u AS=16.8p AD=16.8p PS=17.6u PD=17.6u
* device instance $21 r0 *1 -301.8,-757.3 NMOS
XM$21 VSS A \$15 VSS NMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $22 r0 *1 -289.8,-760.6 NMOS
XM$22 VSS \$15 \$16 VSS NMOS L=1u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
.ENDS DRVBUF

* cell COMP_aki
* pin VCC
* pin BIAS
* pin OUT_C
* pin CIN
* pin REF
* pin AGND
.SUBCKT COMP_aki VCC BIAS OUT_C CIN REF AGND
* device instance $1 r0 *1 -54.5,4.9 PMOS
XM$1 \$9 \$15 \$3 \$3 PMOS L=4u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $2 r0 *1 -41.7,4.9 PMOS
XM$2 \$3 REF \$5 \$3 PMOS L=4u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $3 r0 *1 -11.6,79 PMOS
XM$3 VCC \$9 OUT_C VCC PMOS L=4u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $4 r0 *1 -39.5,81.2 PMOS
XM$4 VCC BIAS BIAS VCC PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $5 r0 *1 -31.5,81.2 PMOS
XM$5 \$3 BIAS VCC VCC PMOS L=1u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $6 r0 *1 -43.8,-45.5 NMOS
XM$6 \$9 \$5 AGND AGND NMOS L=4u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $7 r0 *1 -31,-45.5 NMOS
XM$7 AGND \$5 \$5 AGND NMOS L=4u W=3.4u AS=9.52p AD=9.52p PS=12.4u PD=12.4u
* device instance $8 r0 *1 -11.6,-43.6 NMOS
XM$8 AGND \$9 OUT_C AGND NMOS L=4u W=10u AS=28p AD=28p PS=25.6u PD=25.6u
* device instance $12 r0 *1 -9.9,-112.5 F_RR
XR$12 OUT_C \$15 VCC F_RR R=29.3214285714 L=410.5u W=2.8u A=229.88p P=169.8u m=1
* device instance $14 r0 *1 -132.1,1.9 F_RR
XR$14 CIN \$15 VCC F_RR R=3.4 L=13.6u W=4u A=54.4p P=35.2u m=1
.ENDS COMP_aki

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* device instance $1 r90 *1 -130,-65.5 PMOS
XM$1 PAD|VDD PAD|VDD PAD|VDD PAD|VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p
+ PS=689.36u PD=689.36u
* device instance $11 r90 *1 130,-65.5 NMOSE
XM$11 PAD|VDD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* device instance $1 r90 *1 -130,-65.5 PMOS
XM$1 PAD|VSS VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
* device instance $11 r90 *1 130,-65.5 NMOSE
XM$11 PAD|VSS PAD|VSS PAD|VSS PAD|VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p
+ PS=689.36u PD=689.36u
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_ANA
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA PAD VDD VSS
* device instance $1 r90 *1 -130,-65.5 PMOS
XM$1 PAD VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
* device instance $11 r90 *1 130,-65.5 NMOSE
XM$11 PAD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_ESD_5V_ANA
